US05814631
As the starting substances, ethyl 4-chloro-2-phenoxycarbonylaminobenzoate and 4-(2-bromoethyloxy) benzenesulfonamide were used and the same method was applied as in Example 36 to obtain N-[4-(2-bromoethyloxy)benzenesulfonyl]-N'-(2-ethyloxycarbonyl-5-chlorophenyl)urea and further to obtain from 760 mg (1.50 mmol) of N-[4-(2-bromoethyloxy)benzenesulfonyl]-N'-(2-carboxyl-5-chlorophenyl)urea 320 mg of the above-identified compound (yield 46.4%). Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δppm, DMSO-d6):3.82 (2H,t), 4.46 (2H,t), 7.12 (1H,s), 7.12-7.23 (3H,m), 7.85 (1H,d), 8.11 (2H,d), 11.59 (1H,s).

reactant | ethyl 4-chloro-2-phenoxycarbonylaminobenzoate | ClC1=CC(=C(C(=O)OCC)C=C1)NC(=O)OC1=CC=CC=C1 | C16H14ClNO4
reactant | 4-(2-bromoethyloxy) benzenesulfonamide | BrCCOC1=CC=C(C=C1)S(=O)(=O)N | C8H10BrNO3S
product | N-[4-(2-bromoethyloxy)benzenesulfonyl]-N'-(2-ethyloxycarbonyl-5-chlorophenyl)urea | BrCCOC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C=CC(=C1)Cl)C(=O)OCC | C18H18BrClN2O6S
